US06551682B1
(19) Production of 1-(3-methyl-2-pyridylazo)-2-naphthol (No. L19)
A reaction flask was loaded with ethanol (25 ml), sodium ethoxide (2.5 g), isopentyl nitrite (4.3 g), and 2-amino-3-methylpyridine (4 g), and they were mixed. The mixture was heated up to the reflux temperature of the solvent with stirring and stirred at the reflux temperature for 3 hours. Then, the heating was stopped and the mixture was cooled to room temperature with stirring. To this, 2-naphthol (3 g) dissolved in ethanol (5 ml) was dropwise added in 1.5 hours. The mixture was heated again and stirred at the reflux temperature for 4 hours. Then, the heating and stirring were stopped and the mixture was left to cool. The reaction mixture was filtrated to remove insoluble components, and the filtrate was condensed. Water was added little by little to the residue for crystallization. The filtrated crystals were put into metanol (20 ml). This was stirred for 30 minutes, followed by recrystallization. The crystals were dried to give intended crystals (1.5 g).

reactant | sodium ethoxide | 2.5 g | [O-]CC.[Na+]
reactant | isopentyl nitrite | 4.3 g | N(=O)OCCC(C)C | C5H11NO2
reactant | 2-amino-3-methylpyridine | 4 g | NC1=NC=CC=C1C | C6H8N2
reactant | 2-naphthol | 3 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | Water | O | H2O
product | 1-(3-methyl-2-pyridylazo)-2-naphthol | CC=1C(=NC=CC1)N=NC1=C(C=CC2=CC=CC=C12)O | C16H13N3O
